US09388173B2
Step 1: N-benzyl-5-bromo-2-nitroaniline
To a solution of 4-bromo-2-fluoro-1-nitrobenzene (500 mg, 2.27 mmol) in DMF (6 mL) were added phenylmethanamine (268 mg, 2.5 mmol) and TEA (345 mg, 3.4 mmol). The reaction mixture was stirred at 120° C. for 30 min under microwave. The reaction solution was diluted with water (40 mL), and the resulting precipitate was collected by filtration, washed with water and dried in vacuo. The crude product was used in next step without further purification. LCMS (m/z): 307.1/308.1 [M+H]+/[M+2H]+

reactant | 4-bromo-2-fluoro-1-nitrobenzene | 2.27 mmol, 500 mg | BrC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | phenylmethanamine | 2.5 mmol, 268 mg | C1(=CC=CC=C1)CN | C7H9N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | 40 mL | O | H2O
product | N-benzyl-5-bromo-2-nitroaniline | C(C1=CC=CC=C1)NC1=C(C=CC(=C1)Br)[N+](=O)[O-] | C13H11BrN2O2
